US06248740B1
Production of 2-[6-[2-[4-(diphenylmethyl)piperazino]ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
1.24 g of isopropyl 2-[6-[2-(methanesulfonyloxy)ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was dissolved in 15 ml of N,N-dimethylformamide; 977 mg of 1-(diphenylmethyl)piperazine, 642 mg of potassium iodide and 535 mg of potassium carbonate were added, followed by stirring at room temperature for 1 hour and at 60° C. for 1.5 hours. Ice water and sodium chloride were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected, concentrated under reduced pressure and dried to yield 570 mg of the title compound.

reactant | isopropyl 2-[6-[2-(methanesulfonyloxy)ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 1.24 g | CS(=O)(=O)OCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C | C16H24N4O5S
reactant | 1-(diphenylmethyl)piperazine | 977 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | potassium iodide | 642 mg | [I-].[K+]
reactant | potassium carbonate | 535 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[6-[2-[4-(diphenylmethyl)piperazino]ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 570 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C29H34N6O2
